US04950674
α-(4-Fluorophenyl)-α-[1-(3-phenoxypropyl)-4-piperidinyl]-2-pyridineacetonitrile oxalate [1:1.5]
A mixture of α-(4-fluorophenyl)-α-(4-piperidinyl)2-pyridineacetonitrile (11.30 g, 0.0383 mole), 3-phenoxypropyl bromide (8.20 g, 0.0383 mole), and potassium bicarbonate (4.0 g, 0.04 mole) was heated overnight at reflux in 350 ml of acetonitrile (dried over 4A molecular sieves). The reaction mixture was cooled to room temperature and filtered, and solvent removed by rotary evaporation. A dark brown oil was obtained and dissolved in chloroform. The chloroform layer was extracted with 5% sodium hydroxide and water, dried over sodium sulfate and filtered, and the solvent was removed to give a brown oil. A 0.55 g sample of the oil was converted to the oxalate salt in methanol-ethyl ether. A white, crystalline solid was isolated and dried in vacuo overnight at 80° C., to give 0.35 g (48.4% yield) of product, mp 121°-125° C.

reactant | α-(4-fluorophenyl)-α-(4-piperidinyl)2-pyridineacetonitrile | 0.0383 mole, 11.30 g | FC1=CC=C(C=C1)C(C#N)(C1=NC=CC=C1)C1CCNCC1 | C18H18FN3
reactant | 3-phenoxypropyl bromide | 0.0383 mole, 8.20 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | potassium bicarbonate | 0.04 mole, 4.0 g | C([O-])(O)=O.[K+]
reactant | methanol ethyl ether | CO.C(C)OCC
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | α-(4-Fluorophenyl)-α-[1-(3-phenoxypropyl)-4-piperidinyl]-2-pyridineacetonitrile oxalate | 0.35 g, 48.4% yield | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)C(C#N)(C1=NC=CC=C1)C1CCN(CC1)CCCOC1=CC=CC=C1 | InChI=1S/C27H28FN3O.C2H2O4/c28-24-12-10-22(11-13-24)27(21-29,26-9-4-5-16-30-26)23-14-18-31(19-15-23)17-6-20-32-25-7-2-1-3-8-25;3-1(4)2(5)6/h1-5,7-13,16,23H,6,14-15,17-20H2;(H,3,4)(H,5,6)
